US06448290B1
Methyl 4-[3-(2-nitro-5-chlorophenoxy)propyl]benzoate
To a solution of 2-nitro-5-chlorophenol (150 mg) in THF (2.0 ml), the OH having compound prepared in the above (a) (168 mg) and triphenylphosphine (227 mg) were added in a stream of argon. After then, DEAD (136 μl) was added dropwise thereto at 0° C. The reaction mixture was stirred for 24 hours at room temperature. After stirring, the mixture was quenched by adding iced water and extracted with ethyl acetate. After stirring, the mixture was quenched by adding iced water and extracted with ethyl acetate. The organic layer was washed, dried over and concentrated under the reduced pressure. The residue was purified on silica gel column chromatography (hexane:AcOEt=10:1→5:1) to give the title compound (309 mg) having the following physical data.

reactant | 2-nitro-5-chlorophenol | 150 mg | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)O | C6H4ClNO3
reactant | triphenylphosphine | 227 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 136 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | 2.0 ml | C1CCOC1 | C4H8O
product | Methyl 4-[3-(2-nitro-5-chlorophenoxy)propyl]benzoate | 309 mg | [N+](=O)([O-])C1=C(OCCCC2=CC=C(C(=O)OC)C=C2)C=C(C=C1)Cl | C17H16ClNO5
